*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.003


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_4666_6000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 42.8015
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 42.8015
cd_0_0_0_0 nd_1_0_666_666_ci 0 4.67273e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 49.9503
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 49.9503
cd_0_0_0_1 nd_1_0_2000_666_ci 0 4.00398e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 75.2821
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 75.2821
cd_0_0_0_2 nd_1_0_3333_666_ci 0 2.65667e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 100.092
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 100.092
cd_0_0_0_3 nd_1_0_4666_666_ci 0 1.99816e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 54.5875
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 54.5875
cd_0_0_0_4 nd_1_0_6000_666_ci 0 3.66384e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 66.3036
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 66.3036
cd_0_0_0_5 nd_1_0_7333_666_ci 0 3.01643e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 119.956
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 119.956
cd_0_0_0_6 nd_1_0_8666_666_ci 0 1.66728e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 200.838
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 200.838
cd_0_0_0_7 nd_1_0_666_2000_ci 0 9.95825e-12
rdload_0_0_0_8 nd_1_0_2000_2000 0 74.0139
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 74.0139
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 2.70219e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 53.7184
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 53.7184
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 3.72312e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 288.123
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 288.123
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 6.94149e-12
rdload_0_0_0_11 nd_1_0_6000_2000 0 84.2798
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 84.2798
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 2.37305e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 48.9673
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 48.9673
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 4.08436e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 72.9877
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 72.9877
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 2.74019e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 45.2422
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 45.2422
cd_0_0_0_14 nd_1_0_666_3333_ci 0 4.42065e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 143.611
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 143.611
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 1.39265e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 64.2093
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 64.2093
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 3.11481e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 48.5844
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 48.5844
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 4.11655e-11
rdload_0_0_0_18 nd_1_0_6000_3333 0 58.054
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 58.054
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 3.44507e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 457.698
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 457.698
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 4.36969e-12
rdload_0_0_0_20 nd_1_0_8666_3333 0 44.6787
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 44.6787
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 4.47641e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 260.565
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 260.565
cd_0_0_0_21 nd_1_0_666_4666_ci 0 7.67562e-12
rdload_0_0_0_22 nd_1_0_2000_4666 0 1561.83
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 1561.83
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 1.28055e-12
rdload_0_0_0_23 nd_1_0_3333_4666 0 110.039
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 110.039
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 1.81754e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 56.8607
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 56.8607
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 3.51737e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 44.4143
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 44.4143
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 4.50305e-11
rdload_0_0_0_26 nd_1_0_7333_4666 0 51.9588
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 51.9588
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 3.8492e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 63.1439
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 63.1439
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 3.16737e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 47.6362
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 47.6362
cd_0_0_0_28 nd_1_0_666_6000_ci 0 4.19849e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 171.014
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 171.014
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 1.1695e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 404.432
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 404.432
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 4.9452e-12
rdload_0_0_0_31 nd_1_0_4666_6000 0 91.4955
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 91.4955
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 2.1859e-11
rdload_0_0_0_32 nd_1_0_6000_6000 0 62.0539
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 62.0539
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 3.223e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 983.96
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 983.96
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 2.0326e-12
rdload_0_0_0_34 nd_1_0_8666_6000 0 105.465
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 105.465
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 1.89637e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 165.582
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 165.582
cd_0_0_0_35 nd_1_0_666_7333_ci 0 1.20786e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 90.4421
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 90.4421
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 2.21136e-11
rdload_0_0_0_37 nd_1_0_3333_7333 0 51.0736
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 51.0736
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 3.91592e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 219.692
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 219.692
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 9.10365e-12
rdload_0_0_0_39 nd_1_0_6000_7333 0 779.74
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 779.74
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 2.56496e-12
rdload_0_0_0_40 nd_1_0_7333_7333 0 157.465
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 157.465
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 1.27012e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 67.556
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 67.556
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 2.96051e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 87.5698
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 87.5698
cd_0_0_0_42 nd_1_0_666_8666_ci 0 2.28389e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 50.3523
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 50.3523
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 3.97201e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 75.3768
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 75.3768
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 2.65334e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 100.718
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 100.718
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 1.98575e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 54.6481
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 54.6481
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 3.65978e-11
rdload_0_0_0_47 nd_1_0_7333_8666 0 66.9765
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 66.9765
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 2.98612e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 119.975
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 119.975
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 1.66701e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val143'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val144'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val145'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val146'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val147'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val148'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val149'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val150'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val151'
rd_add0 nd0 0 'esr22'
rd_add1 nd1 0 'esr23'
rd_add2 nd2 0 'esr24'
rd_add3 nd3 0 'esr25'
rd_add4 nd4 0 'esr26'
rd_add5 nd5 0 'esr27'
rd_add6 nd6 0 'esr28'
rd_add7 nd7 0 'esr29'
rd_add8 nd8 0 'esr30'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet4
